US07592477B2
Step a) Formation of 2-(thien-2-ylmethyl)-1H-isoindole-1,3(2H)-dione
A solution of thiophene-2-methylamine (4.203 g, 37.13 mmol) and of phtalic anhydride (5.00 g, 33.76 mmol) in toluene (100 mL) was stirred and heated at reflux for 3 h to remove the formed water by azeotropic distillation (Dean-Stark). The solvent was then evaporated under vacuum. The residue was dissolved in DCM (100 mL), washed with water (3×30 mL), dried over MgSO4, filtered and concentrated to afford the title compound as a white solid (7.78 g, 95%). 1H NMR (CDCl3, 300 MHz) δ 7.84 (d, 1H. J=5.4 Hz), 7.83 (d, 1H. J=5.4 Hz), 7.69 (d, 1H, J=5.4 Hz), 7.68 (d, 1H, J=5.4 Hz), 7.20 (d, 0.5H, J=5.2 Hz), 7.19 (d, 0.5H, J=5.2 Hz), 7.14 (m, 1H), 6.92 (d, 0.5H, J=5.1 Hz), 6.91 (d, 0.5H, J=5.1 Hz), 5.01 (s, 2H). HPLC (Condition A), Rt: 4.11 min (HPLC purity: 99.2%).

reactant | thiophene-2-methylamine | 37.13 mmol, 4.203 g | S1C(=CC=C1)CN | C5H7NS
reactant | phtalic anhydride | 33.76 mmol, 5.00 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(thien-2-ylmethyl)-1H-isoindole-1,3(2H)-dione | 7.78 g, 95% | S1C(=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C13H9NO2S
